US06699910B2
A solution of 6-[2-(5-ethoxycarbonyl-5-methyl-hexyl)-[1,3]dithian-2-yl]-2,2-dimethyl-hexanoic acid ethyl ester (870 mg, 1.89 mmol) and potassium hydroxide (85%, 750 mg, 11.33 mmol) in ethanol (16 mL) and water (4 mL) was heated under reflux for 3 h. The reaction mixture was diluted with water (100 mL) and acidified to pH 4 with 1 N HCl (8 mL). The emulsion was extracted with dichloromethane (3×75 mL). The combined organic phases were washed with water (50 mL), dried over MgSO4, concentrated in vacuo, and dried in high vacuo to furnish 6-[2-(5-carboxy-5-methyl-hexyl)-[1,3]dithian-2-yl]-2,2-dimethyl-hexanoic acid (730 mg, 95%) as a viscous, yellowish oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 2.80 (m, 4H), 1.94 (m, 2H), 1.85 (m, 4H), 1.56 (m, 4H), 1.41 (m, 4H), 1.30 (m, 4H), 1.19 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 185.08, 53.36, 42.28, 40.52, 38.27, 26.18, 25.69, 25.23, 25.11, 24.73. HRMS (LSIMS, nba): Calcd. for C20H37O4S2 (MH+): 405.2133, found: 405.2115.

reactant | 6-[2-(5-ethoxycarbonyl-5-methyl-hexyl)-[1,3]dithian-2-yl]-2,2-dimethyl-hexanoic acid ethyl ester | 1.89 mmol, 870 mg | C(C)OC(C(CCCCC1(SCCCS1)CCCCC(C)(C)C(=O)OCC)(C)C)=O | C24H44O4S2
reactant | potassium hydroxide | 11.33 mmol, 750 mg | [OH-].[K+]
reactant | HCl | 1 N, 8 mL | Cl | ClH
solvent | ethanol | 16 mL | C(C)O | C2H6O
solvent | water | 4 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 6-[2-(5-carboxy-5-methyl-hexyl)-[1,3]dithian-2-yl]-2,2-dimethyl-hexanoic acid | 730 mg, 95% | C(=O)(O)C(CCCCC1(SCCCS1)CCCCC(C(=O)O)(C)C)(C)C | C20H36O4S2
